US07244841B2
5,15-bis-(3-Methoxy-phenyl)-10-undecyl-porphyrin
5,15-bis-(3-Methoxy-phenyl)-porphyrin (100 mg, 0.19 mmol) is dissolved in anhydrous THF (30 mL) at −50° C. under an argon atmosphere. The organolithium reagent described above (5 mL) is added dropwise to the mixture. After 5 min the cooling bath is removed and the mixture is warmed to room temperature. After stirring at room temperature for 15 min the reaction is quenched by slow addition of water (2 mL). After 15 min the mixture is oxidized by the addition of DDQ (4 mL, 0.4 mmol, 0.1 M in THF) and stirred for a further 15 min. The mixture is filtered through alumna (neutral, Brockman grade+) and purified by column chromatography on silica gel eluting with hexane:dichloromethane (4:1 by vol.). The first fraction is collected and crystallised from methanol:dichloromethane.

reactant | 5,15-bis-(3-Methoxy-phenyl)-porphyrin | 0.19 mmol, 100 mg | COC=1C=C(C=CC1)C=1C2=CC=C(N2)C=C2C=CC(C(=C3C=CC(=CC=4C=CC1N4)N3)C3=CC(=CC=C3)OC)=N2 | C34H26N4O2
reactant | DDQ | 0.4 mmol, 0.1 M, 4 mL | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 5,15-bis-(3-Methoxy-phenyl)-10-undecyl-porphyrin | COC=1C=C(C=CC1)C=1C2=CC=C(N2)C=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)CCCCCCCCCCC)N3)C3=CC(=CC=C3)OC)=N2 | C45H48N4O2
